* source FINAL
D_D1         0 N00106 D1N4148 
D_D2         N00120 N00113 D1N4148 
D_D3         N00106 N00113 D1N4148 
D_D4         0 N00120 D1N4148 
C_C1         0 N00113  1000uF  TC=0,0 
X_U1         N00113 N00371 0 LM7805C
R_R1         0 N00371  1k TC=0,0 
V_V1         N00106 N00120 DC 12Vdc AC 1Vac 
